US06080852
4-Hydroxyindole was reduced with sodium cyanoborohydride and acetic acid to give 4-hydroxy, dihydroindole. A mixture of ethyl iodide (40 ml), potassium carbonate (1.09 gm, 7.8 mmole) and 4-hydroxy, dihydroindole (1.06 gm, 7.8 mmole) was refluxed for 2 hr. Excess ethyl iodide was evaporated under vacuum, water was added (10 ml) and the product was extracted with dichloromethane. Silica gel chromatography gave N-ethyl-4-hydroxy-dihydroindole (0.30 gm, 23% yield) as a pale yellow solid.

reactant | potassium carbonate | 7.8 mmole, 1.09 gm | C([O-])([O-])=O.[K+].[K+]
reactant | dihydroindole | 7.8 mmole, 1.06 gm | N1CCC2=CC=CC=C12 | C8H9N
reactant | ethyl iodide | 40 ml | C(C)I | C2H5I
product | N-ethyl-4-hydroxy-dihydroindole | 0.30 gm, 23% yield | C(C)N1CCC2=C(C=CC=C12)O | C10H13NO
